US05741788
B. 7-Benzoyl-5,6,7,8-tetrahydro-1,2,5-thiadiazolo[3',4':4,5]thieno[3,2-c]pyridine
To a solution of 1-benzoyl-4-chloro-3-(3-chloro-1,2,5-thiadiazol-4-yl)-1,2,5,6-tetrahydropyridine (3.4 g, 10 mmol) in dimethylformamide was added sodiumhydrogensulfide monohydrate (1.5 g, 20 mmol) and potassium carbonate (2.0 g). The reaction mixture was stirred at room temperature for 3 h. Water (500 ml) was added and the water phase was extracted with diethylether (2×15 ml). The organic extracts were dried over magnesium sulfate, filtered and evaporated. The residue was purified by column chromatography, eluent: methylene chloride/ethyl acetate: 10/1, giving the title compound in 2.1 g yield.

reactant | 1-benzoyl-4-chloro-3-(3-chloro-1,2,5-thiadiazol-4-yl)-1,2,5,6-tetrahydropyridine | 10 mmol, 3.4 g | C(C1=CC=CC=C1)(=O)N1CC(=C(CC1)Cl)C=1C(=NSN1)Cl | C14H11Cl2N3OS
reactant | sodiumhydrogensulfide monohydrate | 20 mmol, 1.5 g | O.S.[Na]
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 500 ml | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 7-Benzoyl-5,6,7,8-tetrahydro-1,2,5-thiadiazolo[3',4':4,5]thieno[3,2-c]pyridine | C(C1=CC=CC=C1)(=O)N1CC2=C(CC1)SC=1C2=NSN1 | C14H11N3OS2
